US05061705
5-(4-Cyanophenyl)-3-(5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthalenyl)-isoxazole
17.2 g of a 10% strength aqueous sodium hypochlorite solution were added dropwise at 10°-15° C. to a solution of 5.0 g (19 millimoles) of 5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldoxime and 2.4 g (19 millimoles) of 4-ethynylbenzonitrile. The mixture was stirred for 1.5 hours at room temperature. Thereafter, the reaction mixture was poured onto water, the phases were separated and the aqueous phase was extracted again with methylene chloride The combined organic extracts were washed with sodium bisulfite solution, dried over sodium sulfate and evaporated down. The residue was digested in hot methanol, the mixture was allowed to cool and the crystals were filtered off under suction and dried to give 5.4 g of the title compound of melting point 202°-203° C.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthaldoxime | 19 millimoles, 5.0 g | COC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=NO | C16H23NO2
reactant | 4-ethynylbenzonitrile | 19 millimoles, 2.4 g | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
product | 5-(4-Cyanophenyl)-3-(5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethyl-2-naphthalenyl)-isoxazole | 5.4 g | C(#N)C1=CC=C(C=C1)C1=CC(=NO1)C1=CC=2C(CCC(C2C=C1OC)(C)C)(C)C | C25H26N2O2
